US04906634
N-Ethyl-N-heptyl-3-(4-nitrophenoxy)propanamine hydrochloride
In a manner similar to Preparation 41 react 1-(3-chloropropoxy)-4-nitrobenzene with N-ethylheptanamine to obtain the title compound.

reactant | 1-(3-chloropropoxy)-4-nitrobenzene | ClCCCOC1=CC=C(C=C1)[N+](=O)[O-] | C9H10ClNO3
reactant | N-ethylheptanamine | C(C)NCCCCCCC | C9H21N
product | N-Ethyl-N-heptyl-3-(4-nitrophenoxy)propanamine hydrochloride | Cl.C(C)N(CCCOC1=CC=C(C=C1)[N+](=O)[O-])CCCCCCC | InChI=1S/C18H30N2O3.ClH/c1-3-5-6-7-8-14-19(4-2)15-9-16-23-18-12-10-17(11-13-18)20(21)22;/h10-13H,3-9,14-16H2,1-2H3;1H
